US07504508B2
Methyl 4-[(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)(methyl)amino]-2,2-dimethylbutanoate was dissolved in methanol/tetrahydrofuran/water (2/1/1) then sodium hydroxide (3 equivalents) was added and reaction mixture heated to 40° C. for 2 h. The mixture was concentrated, the residue acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 4-[(4-{[(2S,4R)-4-[Acetyl-(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)(methyl)amino]-2,2-dimethylbutanoic acid.

reactant | Methyl 4-[(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)(methyl)amino]-2,2-dimethylbutanoate | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)N(CCC(C(=O)OC)(C)C)C)C)C1=CC=C(C=C1)Cl | C33H38ClN3O4
reactant | sodium hydroxide | 3 equivalents | [OH-].[Na+]
solvent | methanol tetrahydrofuran water | CO.O1CCCC1.O
product | 4-[(4-{[(2S,4R)-4-[Acetyl-(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)(methyl)amino]-2,2-dimethylbutanoic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)N(CCC(C(=O)O)(C)C)C)C)C1=CC=C(C=C1)Cl | C32H36ClN3O4
